US07820698B2
Preparation of (3,5-Dichloro-pyridin-4-ylmethyl)-(3,4-dimethoxy-phenyl)-amine (B1)
Commercially available 3,4-dimethoxy-phenyl-amine (1.74 g, 11.3 mmoles) and 3,5-dichloro-pyridine-4-carbaldehyde (2.0 g, 11.3 mmoles) were dissolved in toluene (40 mL) under nitrogen atmosphere. Molecular sieves (4A, 1 g) were added, and the mixture was heated to reflux. Reaction monitoring was performed by TLC analysis (petroleum ether/AcOEt 7/3): formation of the imine intermediate was completed after 3 hours. Molecular sieves were removed by filtration and the solvent was evaporated. The residue was dissolved in ethanol (99%, 40 mL). The solution was cooled to 0° C. and NaBH4 (559 mg, 14.7 mmol) was added. The resulting mixture was stirred at room temperature for 18 hours, then water was added (50 mL), and the mixture was extracted AcOEt (3×60 mL). The organic layer was washed with brine, dried over Na2SO4 and evaporated to dryness. The crude was purified by flash chromatography (SiO2, petroleum ether/AcOEt from 9/1 to 7/3). The title compound was obtained as a yellow solid (3.04 g).

reactant | 3,4-dimethoxy-phenyl-amine | 11.3 mmoles, 1.74 g | COC=1C=C(C=CC1OC)N | C8H11NO2
reactant | 3,5-dichloro-pyridine-4-carbaldehyde | 11.3 mmoles, 2.0 g | ClC=1C=NC=C(C1C=O)Cl | C6H3Cl2NO
reactant | NaBH4 | 14.7 mmol, 559 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | (3,5-Dichloro-pyridin-4-ylmethyl)-(3,4-dimethoxy-phenyl)-amine | ClC=1C=NC=C(C1CNC1=CC(=C(C=C1)OC)OC)Cl | C14H14Cl2N2O2
